US04006145
500 g of 3-methyl-6-(phenylthio)-phenylacetonitrile, 1.2 litres of ethanol, 470 g of potassium hydroxide and 500 ml of water are heated for 12 hours under reflux. Then the ethanol is evaporated off under reduced pressure. The residue is treated with water until completely dissolved and the neutral constituents are extracted with benzene. The aqueous solution is filtered with the addition of some dicalite and active carbon, cooled and adjusted to pH 3 with concentrated hydrochloric acid. The mixture is then extracted three times with 1 litre of chloroform each time and the extracts are washed with water, dried over calcium chloride, filtered and concentrated under reduced pressure. The crude 3-methyl-6-(phenylthio)-phenylacetic acid obtained is recrystallised from benzene/hexane; melting point 132°-135° C.

reactant | 3-methyl-6-(phenylthio)-phenylacetonitrile | 500 g | CC=1C=C(C(=CC1)SC1=CC=CC=C1)CC#N | C15H13NS
reactant | ethanol | 1.2 litres | C(C)O | C2H6O
reactant | potassium hydroxide | 470 g | [OH-].[K+]
solvent | water | 500 ml | O | H2O
product | 3-methyl-6-(phenylthio)-phenylacetic acid | CC=1C=C(C(=CC1)SC1=CC=CC=C1)CC(=O)O | C15H14O2S
